US07196102B2
Step 1) N-((1R)-1-Phenylethyl)(3-bromo-4-methylphenyl)carboxamide:
To a solution of 3-bromo-4-methylbenzoic acid (5.0 g, 0.023 mol) in CH2CH2 (100 mL) was added oxalyl chloride (8.67 g, 0.069 mol). After 10 minutes, 1.0 mL of DMF was added slowly and the mixture was continued to stir at RT for 2 hours. The volatile was removed in vacuo. The residue was re-dissolved in CH2CH2 (100 mL) and transferred to a 125 mL additional funnel. To a 500 mL Erlenmeyer flask equipped with a stir bar was added 100 m]L of sat. aq. NaHCO3 solution followed by 2.79 g of (R)-α-methylbenzylamine (0.023 mol) in 100 mL of CH2CH2. 3-Bromo-4-methylbenzoyl chloride in CH2Cl2 (from above) was added dropwise to the Erlenmeyer flask and the reaction mixture was continued to stir at RT for 16 hours. The organic phase was diluted with 50 mL of CH2CH2, separated from aqueous phase, dried over Na2SO4 and concentrated in vacuo. The residue was washed with 50 mL of Et2O and dried in an oven at 40 C overnight to afford light yellow solid (7.0 g, 0.022 mol, 96%).

reactant | 3-bromo-4-methylbenzoic acid | 0.023 mol, 5.0 g | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | oxalyl chloride | 0.069 mol, 8.67 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (R)-α-methylbenzylamine | 0.023 mol, 2.79 g | C[C@H](C1=CC=CC=C1)N | C8H11N
reactant | 3-Bromo-4-methylbenzoyl chloride | BrC=1C=C(C(=O)Cl)C=CC1C | C8H6BrClO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-((1R)-1-Phenylethyl)(3-bromo-4-methylphenyl)carboxamide | 0.022 mol, 7.0 g, 96% | C1(=CC=CC=C1)[C@@H](C)NC(=O)C1=CC(=C(C=C1)C)Br | C16H16BrNO
